US06194438B1
4-({1-[3-(4-Methyl-piperidine-1-sulfonyl)-3-aza-bicyclo[3.1.0]hex-6-yl]-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene}-acetyl)-benzonitrile
According to the procedure of Example 13, 4-{[1-(3-aza-bicyclo[3.1.0]hex-6-yl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile (50 mg, 0.102 mmol) and 4-methyl-piperidine-1-sulfonyl chloride (60.2 mg, 0.306 mmol) were reacted to generate the title compound as an off-white solid (62 mg, 0.095 mmol, 93% yield).

reactant | 4-{[1-(3-aza-bicyclo[3.1.0]hex-6-yl)-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene]-acetyl}-benzonitrile | 0.102 mmol, 50 mg | C12CNCC2C1N1C(NC(C1=O)(CC1=CC=NC=C1)CC1=CC=NC=C1)=CC(=O)C1=CC=C(C#N)C=C1 | C29H26N6O2
reactant | 4-methyl-piperidine-1-sulfonyl chloride | 0.306 mmol, 60.2 mg | CC1CCN(CC1)S(=O)(=O)Cl | C6H12ClNO2S
product | 4-({1-[3-(4-Methyl-piperidine-1-sulfonyl)-3-aza-bicyclo[3.1.0]hex-6-yl]-5-oxo-4,4-bis-pyridin-4-ylmethyl-imidazolidin-2-ylidene}-acetyl)-benzonitrile | 0.095 mmol, 62 mg, 93% yield | CC1CCN(CC1)S(=O)(=O)N1CC2C(C2C1)N1C(NC(C1=O)(CC1=CC=NC=C1)CC1=CC=NC=C1)=CC(=O)C1=CC=C(C#N)C=C1 | C35H37N7O4S
